US07544838B2
4-Hydroxy-benzoic acid (5-ethyl-thiophen-2-ylmethylene)-hydrazide (DY164)
To a solution of 4-hydroxy-benzoic acid hydrazide (0.3 g, 0.002 mol) and 5-ethyl-2-thiophenecarboxaldehyde (0.28 g, 0.002 mol) in abs. EtOH (10 mL), was added 1 drop of acetic acid. The reaction mixture was refluxed for 4 hours. The reaction mixture was cooling to room temperature and concentrated to remove solvent. The resulting residue was solidified by EtOAc to give white solid 0.53 g, in 96% yield, mp: 194.5° C. 1H NMR (CD3OD) δ 8.39 (s, 1H), 7.79 (d, 2H), 7.19 (s, 1H), 6.86 (d, 2H), 6.80 (s, 1H), 2.86 (q, 2H), 1.31 (t, 3H). 13C NMR (CDCl3) δ 166.5, 162.7, 153.1, 144.9, 137.7, 132.3, 130.8, 125.3, 124.8, 116.3, 24.7, 16.2. Anal. Calcd for C14H14N2O2S : C, 61.29; H, 5.14; N, 10.21. Found: C, 61.00; H, 5.18; N, 10.00.

reactant | 4-hydroxy-benzoic acid hydrazide | 0.002 mol, 0.3 g | OC1=CC=C(C(=O)NN)C=C1 | C7H8N2O2
reactant | 5-ethyl-2-thiophenecarboxaldehyde | 0.002 mol, 0.28 g | C(C)C1=CC=C(S1)C=O | C7H8OS
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
solvent | EtOH | 10 mL | CCO | C2H6O
product | 4-Hydroxy-benzoic acid (5-ethyl-thiophen-2-ylmethylene)-hydrazide | 0.53 g, 96% yield | C(C)C1=CC=C(S1)C=NNC(C1=CC=C(C=C1)O)=O | C14H14N2O2S
